US06541505B1
2-methoxy-5-bromopyridine.
To a solution of 2,5-dibromopyridine (20 g, 84 mmol) in DMSO (84 mL) is added (25 wt %) sodium methoxide (21.2 mL, 93 mmol). The resulting solution is heated to 80° C. and stirred for 45 min then cooled to 20° C., diluted with ether, washed with water and brine, dried over MgSO4 and concentrated. The residue is purified by flash chromatography (eluting with 10% ether in hexanes) to give 14.6 g of title compound as a colorless oil. 1H NMR (CDCl3) δ 3.90 (s, 3H), 6.66 (d, J=9 Hz, 1H), 7.63 (dd, J=9, 3 Hz, 1H), 8.20 (d, J=3 Hz, 1H). MS (EI) m/z 187/189 (M+, Br).

reactant | 2,5-dibromopyridine | 84 mmol, 20 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | sodium methoxide | 93 mmol, 21.2 mL | C[O-].[Na+]
solvent | DMSO | 84 mL | CS(=O)C | C2H6OS
solvent | ether | CCOCC | C4H10O
product | 2-methoxy-5-bromopyridine | 14.6 g | COC1=NC=C(C=C1)Br | C6H6BrNO
